US05006531
1'-Ethyl-5,6-dihydrospiro[1H-indolo[3,2-c]quinoline-6,4'-piperidine]
A solution of 7.5 g of 1'-acetyl-5,6-dihydrospiro-[1H-indolo-[3,2-c]quinoline-6,4'-piperidine] in 60 ml of THF was added dropwise to 45 ml of 1M LiAlH4 /THF. The solution was stirred at room temperature for 30 minutes and thereafter quenched with NH4Cl, filtered through celite and concentrated to give 9.2 g of crude product. Flash chromatography using 7% CH3OH/CH2Cl2 as an eluent gave 3.5 g of solid, m.p. 238°-240° dec.

reactant | 1'-acetyl-5,6-dihydrospiro-[1H-indolo-[3,2-c]quinoline-6,4'-piperidine] | 7.5 g | C(C)(=O)N1CCC2(CC1)NC1=CC=CCC1=C1C2=C2C=CC=CC2=N1 | C21H21N3O
reactant | LiAlH4 THF | 1M, 45 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3].C1CCOC1
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | CH3OH CH2Cl2 | CO.C(Cl)Cl
product | 1'-Ethyl-5,6-dihydrospiro[1H-indolo[3,2-c]quinoline-6,4'-piperidine] | 3.5 g | C(C)N1CCC2(CC1)NC1=CC=CCC1=C1C2=C2C=CC=CC2=N1 | C21H23N3
